US09428470B2
J) 3-(5,5-Bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-(1-(4-tert-butoxy-4-oxobutanoyl)piperidin-4-yl)phenyl 4-carbamimidamidobenzoate
4-Carbamimidamidobenzoyl chloride hydrochloride (12.99 mg) was added to a mixture of tert-butyl 4-(4-(2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)piperidin-1-yl)-4-oxobutanoate (35.0 mg), pyridine (0.1 mL), and NMP (0.1 mL) at 50 C, and the obtained mixture was stirred at 50 C for 10 minutes. Further, 4-carbamimidamidobenzoyl chloride hydrochloride (12.99 mg) was added thereto, and the obtained mixture was stirred at 50 C for 10 minutes. Further, 4-carbamimidamidobenzoyl chloride hydrochloride (12.99 mg) was added thereto, and the obtained mixture was stirred at 50 C for 10 minutes. Further, 4-carbamimidamidobenzoyl chloride hydrochloride (12.99 mg) was added thereto, and the obtained mixture was stirred at 50 C for 10 minutes. Further, 4-carbamimidamidobenzoyl chloride hydrochloride (12.99 mg) was added thereto, and the obtained mixture was stirred overnight at 50 C. To the reaction mixture, acetonitrile was added, and the obtained mixture was purified by silica gel column chromatography (NH, ethyl acetate/hexane, subsequently methanol/ethyl acetate) to obtain the title compound (29.2 mg).

reactant | 4-Carbamimidamidobenzoyl chloride hydrochloride | 12.99 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1
reactant | tert-butyl 4-(4-(2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)piperidin-1-yl)-4-oxobutanoate | 35.0 mg | C(C)(C)(C)OC(CC1(CC(=NO1)C1=C(C=CC(=C1)O)C1CCN(CC1)C(CCC(=O)OC(C)(C)C)=O)CC(OC(C)(C)C)=O)=O | C34H50N2O9
reactant | pyridine | 0.1 mL | N1=CC=CC=C1 | C5H5N
reactant | NMP | 0.1 mL | CN1CCCC1=O | C5H9NO
reactant | 4-carbamimidamidobenzoyl chloride hydrochloride | 12.99 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1
reactant | 4-carbamimidamidobenzoyl chloride hydrochloride | 12.99 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1
reactant | 4-carbamimidamidobenzoyl chloride hydrochloride | 12.99 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1
reactant | 4-carbamimidamidobenzoyl chloride hydrochloride | 12.99 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(5,5-Bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-(1-(4-tert-butoxy-4-oxobutanoyl)piperidin-4-yl)phenyl 4-carbamimidamidobenzoate | 29.2 mg | N(C(=N)N)C1=CC=C(C(=O)OC2=CC(=C(C=C2)C2CCN(CC2)C(CCC(=O)OC(C)(C)C)=O)C2=NOC(C2)(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C)C=C1 | C42H57N5O10
